US07560551B2
To 4-iodo-1H-pyrazolo[3,4-b]pyridine (1.110 g, 4.53 mmol), di-t-butyl dicarbonate (1.09 g, 4.98 mmol), and N,N-dimethylpyridin-4-amine (0.277 g, 2.27 mmol) was added methylene chloride (15mL). The resulting mixture was stirred at RT under a nitrogen atmosphere for 15 h, diluted with methylene chloride and extracted with saturated sodium bicarbonate. Dried organics over sodium sulfate, filtered through a pad of silica gel using 1:1 EtOAc/CH2Cl2 and concentrated to yield tert-butyl 4-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate as a light yellow solid. 1HNMR (Bruker, 400 MHz, DMSO-d6) ppm: 8.42 (m, 2H), 7.98 (m, 1H), 1.72 (s, 9H).

reactant | 4-iodo-1H-pyrazolo[3,4-b]pyridine | 4.53 mmol, 1.110 g | IC1=C2C(=NC=C1)NN=C2 | C6H4IN3
reactant | di-t-butyl dicarbonate | 4.98 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 2.27 mmol, 0.277 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-iodo-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | IC1=C2C(=NC=C1)N(N=C2)C(=O)OC(C)(C)C | C11H12IN3O2
